US06372759B1
A) N-(1-Boc-6-indazolyl)-2-hydroxybenzamide
To a stirring solution of salicylic acid (1.06 g, 7.7 mmol) and DMF (1 drop) in dichloromethane (100 mL) at 0° C. was added oxalyl chloride (1.13 mL, mmol). After 1 h, the ice bath was removed and stirring was continued for 3.5 h. Solvent was removed under vacuum with minimum heat, and after evacuating further to remove residual oxalyl chloride, the residue was redissolved in dichloromethane (80 mL) and cooled to 0° C. To this solution was then added a solution of 1-Boc-6-aminoindazole (1.86 g, 8 mmol) in dichloromethane (10 mL). After stirring for 10 min, triethylamine (1.24 mL, 8 mmol) was added. After 1 h, the solution was transferred to a separatory funnel and washed with cold water (200 mL). The organic layer was then washed with cold satd aq NaHCO3 (200 mL), dried over MgSO4, filtered and concentrated under vacuum. The product was chromatographed over silica gel (0 to 60% EtOAc in hexane) and recrystallized from dichloromethane/hexanes to give 0.482 g (17%) of crystals.

reactant | salicylic acid | 7.7 mmol, 1.06 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | oxalyl chloride | 1.13 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-Boc-6-aminoindazole | 8 mmol, 1.86 g | C(=O)(OC(C)(C)C)N1N=CC2=CC=C(C=C12)N | C12H15N3O2
reactant | triethylamine | 8 mmol, 1.24 mL | C(C)N(CC)CC | C6H15N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(1-Boc-6-indazolyl)-2-hydroxybenzamide | 0.482 g, 17% | C(=O)(OC(C)(C)C)N1N=CC2=CC=C(C=C12)NC(C1=C(C=CC=C1)O)=O | C19H19N3O4
